US07893060B2
4-Benzyl-2-methyl-4H-thiazolo[4,5-d]pyrimidine-5,7-dione
To a solution of 4-benzylamino-2-methyl-thiazole-5-carboxylic acid ethyl ester (0.40 g, 1.45 mmol) in DCM (10 mL) was added chlorosulfonyl isocyanate (140 μL, 1.59 mmol) dropwise at −78° C. The mixture was allowed to warm to RT and stirred for 30 minutes. The resulting solution was concentrated in vacuo then dissolved in acetone (5 mL), before H2O (2 mL) was added dropwise. The mixture was stirred at RT for 30 minutes, then concentrated in vacuo. The resultant oil was partitioned between EtOAc and H2O. The organic layer was isolated, washed with brine, dried (MgSO4) and concentrated in vacuo to give 4-(1-benzyl-ureido)-2-methyl-thiazole-5-carboxylic acid ethyl ester as a pale brown oil. To a solution of 4-(1-benzyl-ureido)-2-methyl-thiazole-5-carboxylic acid ethyl ester in MeOH (10 mL) was added a solution of sodium methoxide in MeOH (25% w/w, 1.33 mL, 5.80 mmol) and the mixture was stirred at RT for 18 h. The crude reaction mixture was concentrated in vacuo and partitioned between EtOAc and an aqueous solution of HCl (1 M). The organic layer was isolated, washed with brine, then dried (MgSO4) and concentrated in vacuo. The resultant residue was triturated with EtOAc to give the title compound as a pale yellow solid (0.25 g, 63%).

reactant | 4-(1-benzyl-ureido)-2-methyl-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C)N(C(=O)N)CC1=CC=CC=C1 | C15H17N3O3S
reactant | sodium methoxide | C[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 5.80 mmol, 1.33 mL | CO | CH4O
product | 4-Benzyl-2-methyl-4H-thiazolo[4,5-d]pyrimidine-5,7-dione | 0.25 g, 63% | C(C1=CC=CC=C1)N1C(NC(C2=C1N=C(S2)C)=O)=O | C13H11N3O2S
